US06649600B1
4-[4-(2,6-Dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]oct-1-yl]-butyric acid
A solution of 4-[4-(2,6-dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]oct-1-yl]-butyric acid methyl ester (45 mg, 100 μmol) in THF (4 ml) was treated with 1 M LiOH (2 ml) and the resulting turbid solution was stirred at rt overnight. The solution was concentrated in vacuo diluted with water (2 ml) and acidified by the dropwise addition of concentrated HCl. The resulting precipitate was collected, washed with water and dried to afford a white powder (35 mg, 81%). MS: 431 (MH+).

reactant | 4-[4-(2,6-dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]oct-1-yl]-butyric acid methyl ester | 100 μmol, 45 mg | COC(CCCC12CCC(CC1)(CC2)C2=NC=1N(C(N(C(C1N2)=O)CCC)=O)CCC)=O | C24H36N4O4
reactant | LiOH | 1 M, 2 ml | [Li+].[OH-]
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | 4-[4-(2,6-Dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]oct-1-yl]-butyric acid | 35 mg, 81% | O=C1N(C(C=2NC(=NC2N1CCC)C12CCC(CC1)(CC2)CCCC(=O)O)=O)CCC | C23H34N4O4
